US09212190B2
To a solution of methyl 4-hydroxy-1-methylcyclohexane-1-carboxylate (2.1 g, 12.19 mmol, 1.00 equiv) in 20 mL of dichloromethane was added DIEA (4.74 g, 36.68 mmol, 3.01 equiv) and SEMCl (4.08 g, 24.47 mmol, 2.00 equiv) at 0° C. under nitrogen. The resulting solution was stirred for 2 h at room temperature and quenched with water. The resulting solution was extracted with 3×100 mL of ethyl acetate. The organic layers were washed with brine, dried over sodium sulfate and concentrated under reduced pressure. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1/20) to give the desired methyl 1-methyl-4-[[2-(trimethylsilyl)ethoxy]methoxy]cyclohexane-1-carboxylate (3.6 g, 98%) as a colorless oil.

reactant | methyl 4-hydroxy-1-methylcyclohexane-1-carboxylate | 12.19 mmol, 2.1 g, 1.00 equiv | OC1CCC(CC1)(C(=O)OC)C | C9H16O3
reactant | DIEA | 36.68 mmol, 4.74 g, 3.01 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | SEMCl | 24.47 mmol, 4.08 g, 2.00 equiv | C[Si](C)(C)CCOCCl | C6H15ClOSi
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | methyl 1-methyl-4-[[2-(trimethylsilyl)ethoxy]methoxy]cyclohexane-1-carboxylate | 3.6 g, 98% | CC1(CCC(CC1)OCOCC[Si](C)(C)C)C(=O)OC | C15H30O4Si
